US07495016B2
7.7 Preparation of 3-[4-(3-cyclopentyloxy-4-cyclopropylmethoxyphenyl)-2-oxo-pyrrolidin-1-yl]benzonitrile according to General Procedure I
A mixture of 3-[4-(3-cyclopentyloxy-4-hydroxyphenyl)-2-oxo-pyrrolidin-1-yl]benzonitrile (1 mmol), potassium carbonate (2.5 mmol), cyclopropylmethyl bromide (2 mmol) in DMF was created in a dry round bottom flask. The mixture was stirred for 20 h, diluted with EtOAc (or CH3Cl) and filtered through celite. The filtrate was washed with water and then brine, dried over MgSO4, and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel to give pure product. Yield: 83%.

reactant | 3-[4-(3-cyclopentyloxy-4-hydroxyphenyl)-2-oxo-pyrrolidin-1-yl]benzonitrile | 1 mmol | C1(CCCC1)OC=1C=C(C=CC1O)C1CC(N(C1)C=1C=C(C#N)C=CC1)=O | C22H22N2O3
reactant | potassium carbonate | 2.5 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | cyclopropylmethyl bromide | 2 mmol | C1(CC1)CBr | C4H7Br
reactant | CH3Cl | CCl | CH3Cl
solvent | DMF | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-[4-(3-cyclopentyloxy-4-cyclopropylmethoxyphenyl)-2-oxo-pyrrolidin-1-yl]benzonitrile | Yield: 83% | C1(CCCC1)OC=1C=C(C=CC1OCC1CC1)C1CC(N(C1)C=1C=C(C#N)C=CC1)=O | C26H28N2O3
